US07566803B2
C. 4-(1-{4-[2-(t-Butyldimethylsilanyloxy)-3,3-dimethylbutoxy]-3-methylphenyl}-1-ethylpropyl)-2-methylbenzaldehyde
To a solution of [4-(1-{4-[2-(t-butyldimethylsilanyloxy)-3,3-dimethylbutoxy]-3-methylphenyl}-1-ethylpropyl)-2-methylphenyl]methanol (0.25 g, 0.48 mmol) in CH2Cl2 (4 mL) is added powdered 4 Å molecular sieves (250 mg) followed by the addition of NMO (84 mg, 0.72 mmol), and TPAP (8.4 mg, 0.02 mmol). The resulting mixture is stirred at RT for 5 m, filtered through silica gel, washed with EtOAc, and the combined filtrate is concentrated to give the title compound (0.20 g, 83%).

reactant | [4-(1-{4-[2-(t-butyldimethylsilanyloxy)-3,3-dimethylbutoxy]-3-methylphenyl}-1-ethylpropyl)-2-methylphenyl]methanol | 0.48 mmol, 0.25 g | [Si](C)(C)(C(C)(C)C)OC(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(C=C1)CO)C)C)C(C)(C)C | C32H52O3Si
reactant | NMO | 0.72 mmol, 84 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
catalyst | TPAP | 0.02 mmol, 8.4 mg | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
product | 4-(1-{4-[2-(t-Butyldimethylsilanyloxy)-3,3-dimethylbutoxy]-3-methylphenyl}-1-ethylpropyl)-2-methylbenzaldehyde | 0.20 g, 83% | [Si](C)(C)(C(C)(C)C)OC(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(C=O)C=C1)C)C)C(C)(C)C | C32H50O3Si
